US07790882B2
Perfluoro-1-butanesulfonic acid 7-methoxy-1-[4-((R)-1-phenyl-ethoxy)-phthalazin-1-yl)-naphthalen-2-yl ester
A solution of 7-methoxy-1-[4-((R)-1-phenyl-ethoxy)-phthalazin-1-yl]-naphthalen-2-ol (1.0 g, 2.4 mmol) in diisopropylethylamine (0.94 ml, 7.1 mmol) and dichloromethane (35 ml) was treated with N,N-dimethylaminopyridine (DMAP, 50 mg, 0.41 mmol) at 0° C. Then perfluoro-1-butanesulfonyl fluoride (0.51 ml, 2.8 mmol) was added dropwise and the resulting solution was stirred for 19 hrs at 23° C. The resulting solution was quenched with sat. aqueous ammonium chloride solution. The organic layer was separated and the water layer was extracted twice with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (hexane/EtOAc 3:1) to give 1.4 g (2.0 mmol) of the title compound as an oil.

reactant | 7-methoxy-1-[4-((R)-1-phenyl-ethoxy)-phthalazin-1-yl]-naphthalen-2-ol | 2.4 mmol, 1.0 g | COC1=CC=C2C=CC(=C(C2=C1)C1=NN=C(C2=CC=CC=C12)O[C@H](C)C1=CC=CC=C1)O | C27H22N2O3
reactant | diisopropylethylamine | 7.1 mmol, 0.94 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | perfluoro-1-butanesulfonyl fluoride | 2.8 mmol, 0.51 ml | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | Perfluoro-1-butanesulfonic acid 7-methoxy-1-[4-((R)-1-phenyl-ethoxy)-phthalazin-1-yl)-naphthalen-2-yl ester | 2.0 mmol, 1.4 g | COC1=CC=C2C=CC(=C(C2=C1)C1=NN=C(C2=CC=CC=C12)O[C@H](C)C1=CC=CC=C1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C31H21F9N2O5S
